US08580841B2
Step C: Preparation of Ethyl 2-(7-(4-(Pyrazin-2-yl)benzyloxy)-1,2,3,4-tetrahydrocyclopenta[b]indol-3-yl)acetate.
To a mixture of ethyl 2-(7-hydroxy-1,2,3,4-tetrahydrocyclopenta[b]indol-3-yl)acetate (20 mg, 0.077 mmol) and cesium carbonate (38 mg, 0.12 mmol) in DMF (1 mL) was added 4-(pyrazin-2-yl)benzyl methanesulfonate (41 mg, 0.15 mmol). The reaction mixture was stirred at room temperature overnight. The solid was filtered, and the filtrate was concentrated. The residue was purified by preparative TLC to give the title compound (15 mg). LCMS m/z=428.3 [M+H]+. 1H NMR (400 MHz, CDCl3) δ 1.30 (t, J=7.1 Hz, 3H), 2.07-2.14 (m, 1H), 2.50 (dd, J=16.7 and 11.2 Hz, 1H), 2.70-2.87 (m, 4H), 3.50-3.57 (m, 1H), 4.18-4.24 (m, 2H), 5.18 (s, 2H), 6.87 (dd, J=8.8 and 2.4 Hz, 1H), 7.01 (d, J=2.3 Hz, 1H), 7.21 (d, J=8.7 Hz, 1H), 7.62 (d, J=8.2 Hz, 2H), 8.03 (d, J=8.3 Hz, 2H), 8.46 (s, 1H), 8.51 (d, J=2.5 Hz, 1H), 8.64 (dd, J=2.3 and 1.6 Hz, 1H), 9.04 (d, J=1.4 Hz, 1H).

reactant | ethyl 2-(7-hydroxy-1,2,3,4-tetrahydrocyclopenta[b]indol-3-yl)acetate | 0.077 mmol, 20 mg | OC1=CC=2C3=C(NC2C=C1)C(CC3)CC(=O)OCC | C15H17NO3
reactant | cesium carbonate | 0.12 mmol, 38 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4-(pyrazin-2-yl)benzyl methanesulfonate | 0.15 mmol, 41 mg | CS(=O)(=O)OCC1=CC=C(C=C1)C1=NC=CN=C1 | C12H12N2O3S
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | Ethyl 2-(7-(4-(Pyrazin-2-yl)benzyloxy)-1,2,3,4-tetrahydrocyclopenta[b]indol-3-yl)acetate | 15 mg | N1=C(C=NC=C1)C1=CC=C(COC2=CC=3C4=C(NC3C=C2)C(CC4)CC(=O)OCC)C=C1 | C26H25N3O3
